US08071584B2
Ethyl 5-bromo-3-[(1,1-dioxidotetrahydro-3-thienyl)methyl]-1H-indole-7-carboxylate
To a solution of ethyl 5-bromo-3-(tetrahydro-3-thienylmethyl)-1H-indole-7-carboxylate (7.61 g, 20.73 mmol) in dichloromethane (150 mL) was added portionwise 3-chlorobenzoperoxoic acid (10.69 g, 62.19 mmol) at room temperature. The resulting solution was stirred for 5 h. Sodium sulfite was added, and the mixture was washed with water, extracted with DCM (3×100 mL), dried (Na2SO4) and concentrated under reduced pressure. The crude product was purified by column on sillal gel (petroleum:ethyl acetate=10:1 to 5:1 to 2:1), giving 3.52 g (42.56%) of the title compound.

reactant | ethyl 5-bromo-3-(tetrahydro-3-thienylmethyl)-1H-indole-7-carboxylate | 20.73 mmol, 7.61 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)CC1CSCC1 | C16H18BrNO2S
reactant | 3-chlorobenzoperoxoic acid | 62.19 mmol, 10.69 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | Ethyl 5-bromo-3-[(1,1-dioxidotetrahydro-3-thienyl)methyl]-1H-indole-7-carboxylate | 3.52 g, 42.56% | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)CC1CS(CC1)(=O)=O | C16H18BrNO4S
